US07723331B2
e) 2-(4-Chlorophenyl)-6-({6-[(2R)-pyrrolidin-2-ylmethoxy]pyridin-2-yl}methyl)thieno[2,3-d]pyridazin-7(6H)-one
tert-Butyl (2R)-2-{[(6-{[2-(4-chlorophenyl)-7-oxothieno[2,3-d]pyridazin-6(7H)-yl]methyl}pyridin-2-yl)oxy]methyl}pyrrolidine-1-carboxylate (380 mg, 0.69 mmol) was dissolved in 4M HCl in dioxane (1 mL) and stirred at ambient temperature for 3 h. The solvent was evaporated and the title compound was used directly in the next step. Yield: 310 mg (99%). 1H NMR (399.961 MHz, CDCl3) δ 8.39 (s, 1H), 7.89 (t, J=8.0 Hz, 1H), 7.59 (d, J=8.5 Hz, 2H), 7.50 (s, 1H), 7.41 (d, J=8.7 Hz, 2H), 7.15 (d, J=7.5 Hz, 1H), 7.07 (d, J=8.5 Hz, 1H), 5.59 (d, J=14.9 Hz, 1H), 5.42 (d, J=14.9 Hz, 1H), 4.83-4.71 (m, 1H), 4.58-4.51 (m, 1H), 4.17-4.06 (m, 1H), 3.47-3.28 (m, 2H), 2.27-2.02 (m, 3H), 1.98-1.84 (m, 1H). MS (ESI+) 453.2 (M+1H+)

reactant | tert-Butyl (2R)-2-{[(6-{[2-(4-chlorophenyl)-7-oxothieno[2,3-d]pyridazin-6(7H)-yl]methyl}pyridin-2-yl)oxy]methyl}pyrrolidine-1-carboxylate | 0.69 mmol, 380 mg | ClC1=CC=C(C=C1)C1=CC2=C(C(N(N=C2)CC2=CC=CC(=N2)OC[C@@H]2N(CCC2)C(=O)OC(C)(C)C)=O)S1 | C28H29ClN4O4S
solvent | HCl | 4M | Cl | ClH
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 2-(4-Chlorophenyl)-6-({6-[(2R)-pyrrolidin-2-ylmethoxy]pyridin-2-yl}methyl)thieno[2,3-d]pyridazin-7(6H)-one | ClC1=CC=C(C=C1)C1=CC2=C(C(N(N=C2)CC2=NC(=CC=C2)OC[C@@H]2NCCC2)=O)S1 | C23H21ClN4O2S
